US05840727
1-[4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-2-methylphenyl]-ethanone
A stirred mixture of 6-fluoro-3(4-piperidinyl)-1,2 benzisoxazole hydrochloride (5.5 g, 21.6 mmol), K2CO3 (3.5 g), 1-[4-(3bromopropoxy)-2-methylphenyl]-ethanone (4.83 g, 17.8 mmol) in dimethylformamide (25 ml) and acetonitrile (75 ml) was heated at 120° C. for 5 hours. At the end of the reaction, the solvent was removed and the residue was extracted into dichloromethane (300 ml) and the solution was washed with water and brine. The organic solution was dried and evaporated to a crude oil. The purification was done by flash chromatography over a silica gel column (80 g, eluted with dichloromethane, 1 1; 1% methanol: dichloromethane, 1.2 1; 2% methanol:dichloromethane, 1.2 1). The purest fractions were combined and afforded 2.91 g of solid. Recrystallization from dichloromethane and ethanol gave 1-[4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxyl-2-methylphenyl]ethanone as off-white crystals: 2.42 g, m.p.=113°-114° C.

reactant | 6-fluoro-3(4-piperidinyl)-1,2 benzisoxazole hydrochloride | 21.6 mmol, 5.5 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(3bromopropoxy)-2-methylphenyl]-ethanone | 17.8 mmol, 4.83 g | BrCCCOC1=CC(=C(C=C1)C(C)=O)C | C12H15BrO2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 1-[4-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-2-methylphenyl]-ethanone | 2.91 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=CC(=C(C=C2)C(C)=O)C)C=C1 | C24H27FN2O3
